US05811459
4-[3-(2-Benzyloxy-5-carbamoylmethoxyphenyl)propyl]benzoic acid
To a mixture of methyl 4-[3-(2-benzyloxy-5-hydroxyphenyl)propyl]benzoate (510 mg) and potassium carbonate in DMF (10 ml) was added bromoacetamide (384 mg). The reaction was stirred for 48 hours, poured into ethyl acetate (50 ml), washed with 1M HCl (50 ml) and brine (50 ml), dried (magnesium sulphate) filtered and evaporated. The residue was purified by subjecting to chromatography on silica gel using ethyl acetate:hexane (75:25) as eluant. There was thus obtained methyl 4-[3-(2-benzyloxy-5-(carbamoylmethoxy)phenyl)propyl]benzoate (200 mg).

reactant | methyl 4-[3-(2-benzyloxy-5-hydroxyphenyl)propyl]benzoate | 510 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)CCCC1=CC=C(C(=O)OC)C=C1 | C24H24O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetamide | 384 mg | BrCC(=O)N | C2H4BrNO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[3-(2-Benzyloxy-5-carbamoylmethoxyphenyl)propyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC(N)=O)CCCC1=CC=C(C(=O)O)C=C1 | C25H25NO5
